US05654316
N-[[3,5-bis-(trifluoromethyl)phenyl]methyl]-3,4-dichloro-β-(2-hydroxyethyl)-N-methyl-benzenepropanamide
3,4-Dichloro-β[2-[[3,5-bis-(trifluoromethyl)phenylmethyl]methylamino]-2-oxoethyl]-benzenepropanoic acid (6.1 g) in EtOAc (75 mL) was treated with carbonyldiimidazole (2.43 g) and N,N-dimethylaminopyridine (150 mg). The resulting solution was stirred at room temperature for 15 minutes and then heated at 50° C. for two hours. The reaction mixture was cooled to 0° C. and treated with a solution of NaBH4 (1.8 g) in H2O (30 mL), warmed slowly to room temperature and stirred for 12 hours. The reaction mixture was diluted with EtOAc (150 mL) and washed with 1N HCl (1×100 mL), sat. NaHCO3 (1×100 mL) and water (1×100 mL). The organic phase was dried over MgSO4, filtered and concentrated under reduced pressure to yield the crude compound as a oil. Silica gel chromatography eluting with 0-10% MeOH/CH2Cl2 gave the title compound (5.7 g). Mass spectrum (FAB): 502.0791.

reactant | 3,4-Dichloro-β[2-[[3,5-bis-(trifluoromethyl)phenylmethyl]methylamino]-2-oxoethyl]-benzenepropanoic acid | 6.1 g | ClC=1C=C(C=CC1Cl)C(CC(=O)O)CC(=O)N(C)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C21H17Cl2F6NO3
reactant | carbonyldiimidazole | 2.43 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | NaBH4 | 1.8 g | [BH4-].[Na+]
solvent | EtOAc | 75 mL | CCOC(=O)C | C4H8O2
solvent | H2O | 30 mL | O | H2O
solvent | EtOAc | 150 mL | CCOC(=O)C | C4H8O2
product | N-[[3,5-bis-(trifluoromethyl)phenyl]methyl]-3,4-dichloro-β-(2-hydroxyethyl)-N-methyl-benzenepropanamide | 5.7 g | FC(C=1C=C(C=C(C1)C(F)(F)F)CN(C(CC(C1=CC(=C(C=C1)Cl)Cl)CCO)=O)C)(F)F | C21H19Cl2F6NO2
